US07435731B2
2,4,6-Trifluoropyridine (7.5 g, 56.36 mmol) was taken up in 9 mL of dry THF, and the reaction mixture was cooled to −78° C. under argon with stirring. Lithium diisopropylamine (42.3 mL of 2M solution in THF) was added dropwise, and the solution was stirred for 10 minutes. 2-Chlorobenzaldehyde (9.5 mL, 1.5 equiv) was added dropwise via syringe, and the reaction mixture was stirred for 15 minutes. The reaction was quenched by addition of saturated ammonium chloride and water, and the aqueous mixture was extracted once with EtOAc. The combined organic layers were washed with saturated brine and water, dried over MgSO4, filtered and evaporated. The residue was purified by FLASH column chromatography using 5%-10% EtOAc/Hexanes to yield 8.02 g of (2-Chloro-phenyl)-(2,4,6-trifluoro-pyridin-3-yl)-methanol. Mass spec., M+1=275.

reactant | 2,4,6-Trifluoropyridine | 56.36 mmol, 7.5 g | FC1=NC(=CC(=C1)F)F | C5H2F3N
reactant | Lithium diisopropylamine | 2M, 42.3 mL | C(C)(C)NC(C)C.[Li]
reactant | 2-Chlorobenzaldehyde | 9.5 mL, 1.5 equiv | ClC1=C(C=O)C=CC=C1 | C7H5ClO
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | (2-Chloro-phenyl)-(2,4,6-trifluoro-pyridin-3-yl)-methanol | 8.02 g | ClC1=C(C=CC=C1)C(O)C=1C(=NC(=CC1F)F)F | C12H7ClF3NO
